US05698579
To a stirred solution of 3-phthalimido-3(4-propoxyphenyl)propionic acid (1.41 g, 4.0 mmol) in 25 mL of under nitrogen was added carbonyldiimidazole (0.68 g, 4.2 mmol) followed by a catalytic amount of dimethylaminopyridine. The mixture was stirred for 45 minutes at room temperature. To the reaction mixture was then added concentrated ammonium hydroxide (0.29 mL, 4.4 mmol) and the reaction mixture was stirred for 30 minutes at room temperature. The mixture was then diluted with 10 mL of water and the tetrahydrofuran was removed in vacuo. The resulting slurry was filtered and the solid was washed with copious amounts of water. The solid was dried in vacuo (60° C., <1 mm) to afford 1.2 g of crude product. The crude product was purified by dissolving in 200 mL of ethyl acetate, stirring for 3 h and then concentrating to an 80 mL volume. The resulting slurry was filtered and the solid was washed with ethyl acetate (2×20 mL). The solid was air-dried to afford 0.513 g (36%) of 3-phthalimido-3-(4-propoxyphenyl)propionamide as a white powder: mp 109.5°-110.4° C.; 1H NMR (DMSO-d6, 250 MHz) δ7.85 (br s, 4H), 7.55 (br s, 1H), 7.33 (d, 2H, J=8 Hz), 6.75-7.00 (m, 3H), 5.69 (t, 1H, J=8 Hz), 3.88 (t, 2H, J=6 Hz), 3.10-3.30 (m, 2H), 1.60-1.80 (m, 2H), 0.95 (t, 3H, J=7 Hz); 13C NMR (DMSO-d6) δ171.2, 167.7, 158.0, 134.5, 131.23, 131.19, 128.4, 123.1, 114.3, 68.9, 49.9, 36.9, 22.0, 20.4, 10.4; Anal. Calcd. for C20N2O4 0.37 H2O. Theoretical: C, 66.90; H, 5.61; N, 7.80. Found: C, 66.90; H, 5.52; N, 7.75.

reactant | 3-phthalimido-3(4-propoxyphenyl)propionic acid | 4.0 mmol, 1.41 g | C1(C=2C(C(N1C(CC(=O)O)C1=CC=C(C=C1)OCCC)=O)=CC=CC2)=O | C20H19NO5
reactant | carbonyldiimidazole | 4.2 mmol, 0.68 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | ammonium hydroxide | 4.4 mmol, 0.29 mL | [OH-].[NH4+]
solvent | water | 10 mL | O | H2O
product | 3-phthalimido-3-(4-propoxyphenyl)propionamide | 0.513 g, 36% | C1(C=2C(C(N1C(CC(=O)N)C1=CC=C(C=C1)OCCC)=O)=CC=CC2)=O | C20H20N2O4
